US05491237
A 4-necked 12-L round-bottom flask is equipped with a mechanical stirrer and water-cooled condenser. Under nitrogen, the flask is charged with 7-chloro-9-(4-methyl-piperazin-1-ylmethyl)-2,3-dihydro-[1,4]dioxino[2,3-g]quinolin-8-carbaldehyde (120 g, 346 mmol), as prepared above, sodium iodide (1.04 kg, 6.92 mmol), and 3 L of acetonitrile. To the yellow suspension is added concentrated hydrogen chloride (59.7 mL, 726 mmol) over 5 min. The white slurry is refluxed for 15 hr. The solvent is mostly removed by short-path distillation in vacuo. The resultant thick slurry is cooled to ambient temperature and treated with 2.5 L of water and 2.5 L of methylene chloride. The organic layer is separated and the aqueous layer is extracted with methylene chloride (3×2 L). The combined organic layers are washed with brine (2.5 L), dried over anhydrous sodium sulfate, concentrated and dried in vacuo at 30° C. yielding 7-iodo-9-(4-methyl-piperazin-1-ylmethyl)- 2,3-dihydro-[1,4]dioxino[2,3-g]quinolin-8-carbaldehyde as a yellow solid. This crude product is used for the next step without further purification. Recrystallization from CH2Cl2 -MeOH (1:1) gave an analytical sample as an off-white solid: 198°-200° C. (dec.). 1H NMR (CDCl3, 200 MHz) δ2.30 (s, 3H), 2.43, 2.57 (m, 8H), 3.93 (s, 2H). 4.40(s, 4H), 7.47 (s, 1H), 7.50 (s, 1H), 10.1 (s, 1H). Elemental analysis: Calculated for C18H20IN3O3 : C 47.70, H 4.45, N 9.27. Found: C 47.78, H 4.45, N 9.26.

reactant | water | O | H2O
reactant | 7-chloro-9-(4-methyl-piperazin-1-ylmethyl)-2,3-dihydro-[1,4]dioxino[2,3-g]quinolin-8-carbaldehyde | 346 mmol, 120 g | ClC1=NC=2C=C3C(=CC2C(=C1C=O)CN1CCN(CC1)C)OCCO3 | C18H20ClN3O3
reactant | sodium iodide | 6.92 mmol, 1.04 kg | [I-].[Na+]
reactant | hydrogen chloride | 726 mmol, 59.7 mL | Cl | ClH
solvent | acetonitrile | 3 L | C(C)#N | C2H3N
product | 7-iodo-9-(4-methyl-piperazin-1-ylmethyl)- 2,3-dihydro-[1,4]dioxino[2,3-g]quinolin-8-carbaldehyde | IC1=NC=2C=C3C(=CC2C(=C1C=O)CN1CCN(CC1)C)OCCO3 | C18H20IN3O3
